US04069222
Benzophenone, 32.4 kg (177.8 mole), α-picoline, 33.1 kg (355.5 moles), and lithium amide, 4.54 kg (197.4 moles) are charged into a 30 gallon reactor arranged for reflux operation. The mixture is stirred, rapidly heated to 125° C. and maintained at this temperature. The rate of ammonia evolution will gradually increase and after about 3 to 4 hours of reaction time only occasional heating is required to maintain the desired temperature and a rapid evolution of ammonia. After about 5 hours, a vigorous surge of ammonia evolution is noted. Following the ammonia surge, external heating is continued and the reaction maintained at 125° C. for an additional 6 to 8 hours. The reaction mixture is cooled to 70°-80° C. and rapidly added to approximately 230 liters of water at 25° C. Stirring is continued for approximately 30 minutes and the solid removed by filtration. The filter cake is thoroughly washed with water and dried at 60°-70° C. yielding 42-6 kg of α,α-diphenyl-2-pyridineethanol having a m.p. of 147°-51° C.

reactant | Benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
reactant | α-picoline | N1=C(C=CC=C1)C | C6H7N
reactant | lithium amide | [NH2-].[Li+]
reactant | ammonia | N | H3N
solvent | water | approximately 230 liters | O | H2O
product | α,α-diphenyl-2-pyridineethanol | 42-6 kg | C1(=CC=CC=C1)C(CC1=NC=CC=C1)(O)C1=CC=CC=C1 | C19H17NO
